US07452892B2
Preparation of Reagent 3-(bromomethyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide
To a stirring solution of 3-(hydroxymethyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide (207 mg, 1.0 mmol) and carbon tetrabromide (400 mg, 1.2 mmol) in CH2Cl2 (5 mL) at 0° C. was added Ph3P (393 mg, 1.5 mmol) in small portions over 5 min. The reaction mixture was then stirred at 0° C. for 30 min. Analysis by HPLC/MS indicated the reaction was complete. The reaction mixture was directly loaded onto a silica gel cartridge (40 g) and eluted with a gradient of EtOAc (0-100%) in hexanes to afford 202 mg (75%) of the title compound as a white solid. HPLC/MS: retention time=2.10 min, [M+H]+=269.9.

reactant | 3-(hydroxymethyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide | 1.0 mmol, 207 mg | OCC=1C(=[N+](C(=CC1)C(F)(F)F)[O-])C | C8H8F3NO2
reactant | carbon tetrabromide | 1.2 mmol, 400 mg | C(Br)(Br)(Br)Br | CBr4
reactant | Ph3P | 1.5 mmol, 393 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(bromomethyl)-2-methyl-6-(trifluoromethyl)pyridine 1-oxide | 202 mg, 75% | BrCC=1C(=[N+](C(=CC1)C(F)(F)F)[O-])C | C8H7BrF3NO
